US09163003B2
Bis-(2-bromo-ethyl)-carbamic acid ethyl ester
To a stirred solution of bis-(2-bromo-ethyl)-amine (1 g, 3.21 mmol) in water (10 mL) at 0° C. was added ethyl chloroformate (0.293 mL, 3.08 mmol) and then NaOH (4.01 mL, 8.02 mmol), and stirred for 10 min at 0° C. The reaction mixture was acidified by 2 N HCl to pH 5, and extracted three times with 20 mL of ethyl acetate, dried over Na2SO4 and concentrated in vacuo. The crude product was purified by flash chromatography (gradient of 85:15 to 70:30 heptane/ethyl acetate in 30 min) to give the title compound (287 mg, 0.947 mmol, 29.5% yield). MS calculated for C7H14Br2NO2 304.0. found (ESI) m/z 304.2 (M+H)+, retention time 0.56 min.

reactant | bis-(2-bromo-ethyl)-amine | 3.21 mmol, 1 g | BrCCNCCBr | C4H9Br2N
reactant | ethyl chloroformate | 3.08 mmol, 0.293 mL | ClC(=O)OCC | C3H5ClO2
reactant | NaOH | 8.02 mmol, 4.01 mL | [OH-].[Na+]
reactant | HCl | 2 N | Cl | ClH
solvent | water | 10 mL | O | H2O
product | Bis-(2-bromo-ethyl)-carbamic acid ethyl ester | 0.947 mmol, 287 mg, 29.5% yield | C(C)OC(N(CCBr)CCBr)=O | C7H13Br2NO2
